Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with a PMH notable for HTN, prostate cancer 
s/p radical prostatectomy ___ and ___ disease (diagnosed 
___, on mesalamine, 6mp, recently completed budesonide taper 
___ with a known stricture of the distal illeum who 
presented with abdominal pain, nausea, and vomiting. 

Patient was in his USOH until ___ days PTA when he developed 
crampy, intermittent abdominal pain progressively getting worse 
with poor PO intake since ___. He also has had nonbloody emesis 
and nausea. Passing stool with last bowel movement ___. No 
flatus passed since ___. 

He denies any dysuria, urinary frequency, hematuria, does note 
that the urine is darker in color. He denies fevers or chills. 
He did have some diffuse weakness and paleness today and brief 
episode of difficulty breathing which has since resolved.  

In the ED initial vitals were: 98.6 95 157/87 16 98% RA  
- Labs notable for WBC 14.8 with 92.5%N. Chemistry with glucose 
of 55. Normal LFTs. CRP 32.5. Had emesis x2 in the ED. 
- Patient was given 4L NS, 1 amp d50, morphine 4mg IV x 2, and 
zofran.  
- CT abd/pelvis showed Substantial high-grade bowel obstruction 
with terminal ileum stricture  
Vitals prior to transfer were: 98.1 76 147/76 18 99% RA  

On the floor, he complains of ___ LLQ and denies nausea. 

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
___ disease
prostate CA s/p radical prostatectomy ___
Hypertension
Duodenal ulcers.  

 
Social History:
___
Family History:
Cousin with ___ disease
Pt unsure if other family history of IBD
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
PHYSICAL EXAM:  
Vitals - T: 98.3 BP: 169/77 HR: 70  RR: 20 02 sat:100% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, ___ sytolic murmur loudest RUSB
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, TTP LUQ, mild voluntary guarding, no 
rebound tenderness.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM: 
Tm 99.0 Tc 97.8 BP 148/73 P 62 R 18  SpO2 100% RA
I/O: pMN: -/BRP 24hr: ___  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition, NGT in place draining green/brown fluid  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, ___ sytolic murmur loudest RUSB
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, NTTP, +BS, no rebound tenderness or 
guarding.   
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, moving all extremities, speech fluent  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION: 
___ 11:20PM BLOOD WBC-14.8* RBC-4.71 Hgb-14.5 Hct-43.4 
MCV-92 MCH-30.7 MCHC-33.4 RDW-14.8 Plt ___
___ 11:20PM BLOOD Neuts-92.5* Lymphs-3.5* Monos-3.5 Eos-0.3 
Baso-0.3
___ 11:20PM BLOOD Glucose-55* UreaN-19 Creat-0.6 Na-139 
K-4.3 Cl-95* HCO3-28 AnGap-20
___ 11:20PM BLOOD ALT-14 AST-23 AlkPhos-47 TotBili-0.5
___ 11:20PM BLOOD Albumin-4.1
___ 10:28AM BLOOD Calcium-8.7 Phos-3.9 Mg-1.7
___ 11:20PM BLOOD CRP-32.5*

DISCHARGE: 
___ 08:05AM BLOOD WBC-9.1 RBC-3.90* Hgb-12.2* Hct-36.1* 
MCV-93 MCH-31.3 MCHC-33.7 RDW-14.4 Plt ___
___ 08:05AM BLOOD Glucose-94 UreaN-11 Creat-0.5 Na-136 
K-4.1 Cl-98 HCO3-29 AnGap-13
___ 07:53AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.9

PERTINENT RESULTS: 
___ 06:45AM BLOOD CRP-7.6*
___ 10:49AM BLOOD Lactate-1.0
___ 04:37PM BLOOD Lactate-0.4*
___ 07:29PM BLOOD Lactate-0.5
___ 08:21AM BLOOD Lactate-0.5
___ 08:45AM BLOOD Lactate-0.9
___ 01:09PM BLOOD Lactate-0.8

IMAGING: 
___BD & PELVIS WITH CO 
FINDINGS: 
  
  
LOWER CHEST: Moderately severe emphysematous changes of the 
lower lung bases are noted. 
  
ABDOMEN: Liver, pancreas, gallbladder, spleen, adrenals are 
unremarkable.  Abdominal aorta is moderately affective 
atherosclerotic disease, but not aneurysmally dilated. 
  
There is a high-grade small-bowel obstruction with massively 
dilated loops of small bowel measuring up to 6.5 cm.  The 
terminal ileum and initial portions of the cecum and ascending 
colon are noted to be inflamed with a thickened wall (02:43 and 
601:17). Point of transition occurs at the start of this 
inflammation (601:19). Large bowel is relatively collapsed. 
Appendix unremarkable.  No evidence of pneumatosis.  No 
hypoenhancing bowel wall. 
  
Small amount of abdominal and pelvic free fluid. 
  
PELVIS: Bladder is within normal limits.  Multiple surgical 
clips are seen in the pelvis presumed noted to partial 
prostatectomy. 
  
BONES AND SOFT TISSUES: No suspicious lytic or sclerotic 
lesions. Significant degenerative changes of the hips right 
greater the left.  Superior endplate compression deformity of 
the L1 vertebral body is stable. 
  
IMPRESSION:  
  
High-grade small bowel obstruction with the transition point 
beginning at a long segment of inflamed terminal ileum extending 
into the ascending colon compatible with ___ stricture. 
  
Moderately severe emphysematous changes of the lung bases. 
  
The study and the report were reviewed by the staff radiologist. 


___ Imaging ABDOMEN (SUPINE & ERECT)
FINDINGS:  
  
There are multiple surgical clips seen overlying the pelvis 
bilaterally.  The imaged portions of the lower lungs shows no 
evidence of cardiomegaly or pleural effusion.  There is no free 
intraperitoneal air. There is air seen throughout nondilated 
segments of small and large bowel. There are few air-fluid 
levels seen on upright view.  These findings are consistent with 
provided history of resolving obstruction. 
  
IMPRESSION:  
  
Air-filled nondilated loops of large and small bowel. No 
convincing evidence for ongoing obstruction. 

MICRO: 
___ BCx: NG (final)

     

 
Brief Hospital Course:
Acute Medical Issues: 

# Small bowel obstruction: Patient presented with abdominal 
pain, nausea, and vomiting, no passage of flatus x3 days. CT ab 
showed high grade small bowel obstruction at site of previously 
seen ileal stricture on MRE ___. GI and ACS were consulted, and 
an attempt was made at medical management, with IVF, NGT 
decompression, strict NPO, and pain medication. IV solumedrol 20 
mg q8hrs was added and the patient's home mesalamine and ___ 
were held. He was also begun on IV cipro/flagyl for ___ 
flare as below. Serial abdominal exams were performed with 
significant improvement and the patient's lactate was trended. 
His diet was advanced on HD3 and he was tolerating a full diet 
w/low residue by HD 4. There were no clinical signs of 
peritonitis or laboratory evidence of ischemia. On HD 5, he was 
switched to PO prednisone 40 mg and PO cipro/flagyl which he 
tolerated well. 

# ___ disease: CT Ab & P showed high grade obstruction at 
site of ileal stricture previously noted on MRE ___ as above. 
The cause of his obstruction was felt to be in part a ___ 
disease flare and he was treated with IV solumedrol 20 mg q8 
hrs. His home mesalamine and ___ were stopped. He was discharged 
on a two week course of prednisone 40 with a 5mg/week taper 
thereafter. Per GI recommendations, he was restarted on his home 
___ 75 mg po daily and his home mesalamine was stopped. 

# GERD: Patient complaining of GERD symptoms and started on 
pantoprazole in house. 

Chronic Medical Issues: 

# Osteoporosis: Patient's vit D and calcium were stopped in 
hospital due to strict NPO status and restarted on discharge.

Transitional Issues: 

1) Per guidelines, prednisone > 20mg /d for > 4 weeks + second 
immunosuppressive agent (e.g. ___ is an indication for PCP 
___. Would consider starting him on tmp/smx po ss daily 
as an outpatient depending on the course for his prednisone 
taper and plan re: ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ mg PO BID 
2. Mercaptopurine 75 mg PO DAILY 
3. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral 2 tabslet Daily 

 
Discharge Medications:
1. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral 2 tabslet Daily 
2. Mercaptopurine 75 mg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0
4. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth 8 Disp #*42 Tablet 
Refills:*0
5. PredniSONE 40 mg PO DAILY Duration: 14 Doses 
Start: ___, First Dose: Next Routine Administration Time 
your gastroenterologist will continue this taper at follow up 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*24 Tablet 
Refills:*0
6. PredniSONE 35 mg PO DAILY Duration: 7 Doses 
Start: After 40 mg tapered dose 
your gastroenterologist will continue this taper at follow up 
RX *prednisone 5 mg 7 tablet(s) by mouth daily Disp #*91 Tablet 
Refills:*0
7. PredniSONE 30 mg PO DAILY Duration: 7 Doses 
Start: After 35 mg tapered dose 
your gastroenterologist will continue this taper at follow up 
8. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Discharge Worksheet-Discharge ___, 
MD on ___ @ 1131
Primary Diagnosis:
Small Bowel Obstruction
Secondary Diagnosis:
___ disease

 
Discharge Condition:
 
Discharge Worksheet-Discharge ___, 
MD on ___ @ 1131
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Import Discharge Condition
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you during your hospitalization at 
___. You were admitted with a small bowel obstruction 
secondary to a Chron's stricture. You were managed with bowel 
rest, decompression with an NG tube, IV steroids and 
antibiotics. Your obstruction improved. We were able to remove 
the NGT and you were able to tolerate a regular diet at 
discharge. You should continue to take you steroids and 
antibiotics at discharge. Your gastroenterologist will continue 
your taper when you have your follow up appointment. You are 
being provided with a prescription for 1 month of your steroids. 
Please ask your gastroenterologist for a prescription for the 
remainder of your taper at follow up next week
 
Followup Instructions:
___